US05438052
7-Mercapto-N-hydroxy-5-(hydroxymethyl)-s-triazolo[1,5-a]pyrimidine-2-carboxamide (300 mg) (1.24 mmol) and 305 mg (1.12 mmol) of 7-aminocephalosporanic acid are suspended in 50 ml of sulpholane/dichloromethane (1:1 v/v). 5 ml of boron trifluoride diethyl etherate are added thereto at 0° C. The reaction mixture is stirred at 0° C. for 21/2 hours and at room temperature for 24 hours. After the addition of 30 ml of dichloromethane the mixture is stirred for 15 minutes and subsequently filtered. The suction filter material is dissolved in water and adjusted to pH 5 with saturated aqueous sodium hydrogen carbonate solution. The precipitated product is filtered off under suction and washed in succession with water, dichloromethane and diethyl ether. There are obtained 340 mg of (6R,7R)-7-amino-3-[[[2-(hydroxycarbamoyl)-5-(hydroxymethyl)-s-triazolo[1,5-a]pyrimidin-7-yl]thio]methyl]-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene-2-carboxylic acid as a beige powder.

reactant | 7-Mercapto-N-hydroxy-5-(hydroxymethyl)-s-triazolo[1,5-a]pyrimidine-2-carboxamide | 1.24 mmol, 300 mg | SC1=CC(=NC=2N1N=C(N2)C(=O)NO)CO | C7H7N5O3S
reactant | 7-aminocephalosporanic acid | 1.12 mmol, 305 mg | CC(=O)OCC1=C(N2[C@@H]([C@@H](C2=O)N)SC1)C(=O)O | C10H12N2O5S
reactant | boron trifluoride diethyl etherate | 5 ml | B(F)(F)F.CCOCC
reactant | dichloromethane | 30 ml | ClCCl | CH2Cl2
solvent | sulpholane dichloromethane | 50 ml | S1(=O)(=O)CCCC1.ClCCl
product | (6R,7R)-7-amino-3-[[[2-(hydroxycarbamoyl)-5-(hydroxymethyl)-s-triazolo[1,5-a]pyrimidin-7-yl]thio]methyl]-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene-2-carboxylic acid | 340 mg | N[C@H]1[C@H]2SCC(=C(N2C1=O)C(=O)O)CSC1=CC(=NC=2N1N=C(N2)C(NO)=O)CO | C15H15N7O6S2
